US07625889B2
Step 1: 6-Bromo-3H-benzoxazol-2-one:
To a mixture of 3H-benzooxazol-2-one (20 g, 0.15 mol) in DCM (500 mL) was added bromine (8.34 mL, 0.16 mol). After stifling at room temperature for 19.5 h, the orange precipitate that had formed was filtered off and washed with DCM until the orange color was washed out. The filtrate was concentrated to approximately 33% of its original volume and filtered and washed as before. The combined solids weighed 28.36 g and contained ca. 8-9% starting material.

reactant | 3H-benzooxazol-2-one | 0.15 mol, 20 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | bromine | 0.16 mol, 8.34 mL | BrBr | Br2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-3H-benzoxazol-2-one | BrC1=CC2=C(NC(O2)=O)C=C1 | C7H4BrNO2
